US05135914
Step B: Preparation of [2R-[2R*,3S*(S*)]]-2-hydroxy-5-methyl-3-[[2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxo-6-[[(phenylmethoxy)carbonyl]amino]hexyl]amino]hexanoic acid, 1-methylethyl ester
N-[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, 4 g (6.6 mmol), 1.58 g (6.6 mmol) of [2R-(2R*,3S*)]-3-amino-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester, monohydrochloride, and 1.79 g (13.2 mmol) of 1-hydroxybenzotriazole are combined in 80 ml of dimethylformamide. The [2R-(2R*,3S*)]-3-amino-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester, monohydrochloride is neutralized with 1.4 ml (10.1 mmol) of triethylamine. The solution is cooled to -10° C. and 1.36 g (6.6 mmol) of dicyclohexylcarbodiimide is added with stirring. The reaction mixture is kept cold for 8 hours while stirring under nitrogen, allowed to warm to room temperature overnight, filtered, the filtrate concentrated and the residue partitioned between ethyl acetate and water. The organic layer is separated and extracted with saturated solution of sodium bicarbonate, dried (sodium sulfate), filtered and concentrated. The residue is flash chromatographed over silica gel 60 (230-400 mesh), eluted with hexane-ethyl acetate (2:3), the eluates collected, dissolved in diethyl ether, filtered and the filtrate concentrated to afford 4.01 g (77%) of the title compound as a white amorphous solid.

reactant | N-[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CC1=CC=CC2=CC=CC=C12 | C38H38N2O5
reactant | 3-amino-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester, monohydrochloride | Cl.NC(C(C(=O)OC(C)C)O)CC(C)C
reactant | 1-hydroxybenzotriazole | 13.2 mmol, 1.79 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 10.1 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 6.6 mmol, 1.36 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-5-methyl-3-[[2-[[3-(1-naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]amino]-1-oxo-6-[[(phenylmethoxy)carbonyl]amino]hexyl]amino]hexanoic acid, 1-methylethyl ester | 4.01 g, 77% | OC(C(=O)OC(C)C)C(CC(C)C)NC(C(CCCCNC(=O)OCC1=CC=CC=C1)NC(C(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)=O)=O | C48H57N3O7
